### PR TITLE
Improved Lit handling. Functional extensionality tests

### PR DESCRIPTION
**Pull request by amaurremi**
This PR is part of the work on improving lambda handling in Dafny. A [previous](https://github.com/boogie-org/boogie/commit/99c51f6b0a6aa4928f4cabb724e290ff0cb82b97) Boogie commit generalizes Boogie's lambda lifting algorithm which allows for a more uniform representation of anonymous functions, allowing one to (more likely) have the same representation of lambdas that are created in different contexts. 

This PR ensures that `const`s do not get wrapped in `Lit`s (for example, because `const`s can be uninitialized), which also helps to make lambda lifting more uniform: if two syntactically equal lambdas have a free variable `x`, where in one case `x` is a `const` and in the other a parameter, then at the moment, the first lambda will contain a `Lit` whereas the latter one will not. After this PR, both lambdas would not have a `Lit` which will allow them to be lifted in the same way.

Since lambda lifting makes lambdas more usable, it also allows us to use functional extensionality (if we add it as an axiom). This PR adds two tests with proofs that make use of functional extensionality: a proof of associativity of matrix multiplication where matrices are represented as functions, and monad laws for the `State` monad.

@gancherj @RustanLeino @samuelgruetter @seanmcl

### CODE REVIEW

File: Test/lambdas/LitInt.dfy [hunk 1]
```diff
@@ -0,0 +1,22 @@
+// RUN: %dafny /dprint:"%t.dprint" "%s" > "%t"
+// RUN: %diff "%s.expect" "%t"
+
+const N: nat
+
+function Fibonacci(n: int): int
+{
+	if n <= 1 then 1
```
Comment (RustanLeino) [inline Test/lambdas/LitInt.dfy]: This is not the Fibonacci I know, because it skips 0. I suggest:

    if n < 2 then n

File: Source/Dafny/Translator.cs [hunk 2]
```diff
@@ -14381,12 +14380,8 @@ public Expression GetSubstitutedBody(LetExpr e)
                   Bpl.Expr obj = TrExpr(e.Obj);
                   args.Add(obj);
                   result = new Bpl.NAryExpr(expr.tok, new Bpl.FunctionCall(translator.GetReadonlyField(field)), args);
-                  isLit = translator.IsLit(obj);
                 }
                 result = translator.CondApplyUnbox(expr.tok, result, field.Type, expr.Type);
-                if (isLit) {
-                  result = MaybeLit(result, translator.TrType(expr.Type));
-                }
```
Comment (samuelgruetter) [inline Source/Dafny/Translator.cs]: If I understand correctly, this change results in fewer `Lit`s. Does that mean there will be cases where the SMT solver could compute thanks to `Lit`s before but now cannot any more?

File: Test/lambdas/LitInt.dfy [hunk 3]
```diff
@@ -0,0 +1,22 @@
...
+	else Fibonacci(n - 2) + Fibonacci(n - 1)
```
Comment (RustanLeino) [inline Test/lambdas/LitInt.dfy]: The indentation looks suspiciously big. You're not using tabs, right? I suggest 2 spaces for the indent.

File: Test/lambdas/LitInt.dfy [hunk 4]
```diff
@@ -0,0 +1,22 @@
...
+}
+
+// The following assertion should fail.
+// Specifically, the verifier should not attempt to
+// prove that for all N, Fibonacci is not equal to 143
+// since that would not terminate. In order to avoid that
+// we do not wrap `const`s in `Lit`s. If we did wrap this
+// `N` in a `Lit` the verifier would keep trying to prove this
+// assertion.
```
Comment (RustanLeino) [inline Test/lambdas/LitInt.dfy]: Nice comment

File: Test/lambdas/MatrixAssoc.dfy [hunk 5]
```diff
@@ -0,0 +1,270 @@
...
+    requires forall x, y :: a(x)(y) == b(x)(y)
+    ensures a == b
+{
+    forall x ensures a(x) == b(x) {
+        FunEq(a(x), b(x));
+    }
+    FunEq(a, b);
+}
+
+/** Σ from i to n of f(i) */
```
Comment (RustanLeino) [inline Test/lambdas/MatrixAssoc.dfy]: The comment should say "`0` to `n`" (which leaves `i` rather unbound in the sentence). Perhaps

    Σ f(i) where i ranges from 0 to n

On the subject of "`0` to `n`":  One way to distinguish half-open intervals (like `[0..100]` in Dafny, `[0, 100)` in textbooks, or `i: 0 <= i < 100` using a predicate) from closed intervals (like `[0, 99]` in textbooks or `i: 0 <= i <= 99`) is to use "`0` to `100`" for the former and "`0` through `99`" for the latter. The mnemonic for these is that "to" tells you to stop as soon as you reach `100`, whereas "through" says you go all the way through `99` before you stop. Using this convention (which I'm not claiming is widespread, but it makes sense to me), "`0` to `n`" is indeed what you want. But if you want to emphasize that more, you could say (the grammatically dubious, but unambiguous) "`0` to less than `n`".

File: Test/lambdas/MatrixAssoc.dfy [hunk 6]
```diff
@@ -0,0 +1,270 @@
...
+}
+
+/** Σ_k (Σ_l f(k,l))  ==  Σ_l (Σ_k f(k,l)) */
+/** proof by induction */
+lemma sum_assoc_n(m: Matrix, n1: nat, n2: nat)
+    requires n1 <= N && n2 <= N
+    ensures Sum_n((k: Index) => Sum_n((l: Index) => m(k)(l), n1), n2)
+            ==
+            Sum_n((l: Index) => Sum_n((k: Index) => m(k)(l), n2), n1)
+    {
```
Comment (RustanLeino) [inline Test/lambdas/MatrixAssoc.dfy]: Bring this open-curly to the left margin, lining up with `lemma`.

File: Test/lambdas/MatrixAssoc.dfy [hunk 7]
```diff
@@ -0,0 +1,270 @@
...
+        var f  := (k: Index) => Sum_n((l: Index) => m(k)(l), n1);
+        var g  := (l: Index) => Sum_n((k: Index) => m(k)(l), n2);
+        if (n2 == 0) {
```
Comment (RustanLeino) [inline Test/lambdas/MatrixAssoc.dfy]: Parens not needed

File: Test/lambdas/MatrixAssoc.dfy [hunk 8]
```diff
@@ -0,0 +1,270 @@
...
+            calc {
+                Sum_n(f, n2);
+                ==
```
Comment (RustanLeino) [inline Test/lambdas/MatrixAssoc.dfy]: I suggest lining up the `==` with `calc`. (Something should be said in the Dafny style guide.)

File: Test/lambdas/StateMonad.dfy [hunk 9]
```diff
@@ -0,0 +1,231 @@
...
+          State(s => h(s));
+          == { FunEq(s => h(s), h); }
+          State(h);
+          ==
+          m;
+        }
+    }
+
+  lemma Associativity<A,B,C>(m : M<A>, f:A -> M<B>, g: B -> M<C>)
+  ensures Bind(Bind(m, f), g) == Bind(m, x => Bind(f(x), g))
```
Comment (RustanLeino) [inline Test/lambdas/StateMonad.dfy]: Indent the `ensures`

File: Test/lambdas/StateMonad.dfy [hunk 10]
```diff
@@ -0,0 +1,231 @@
...
+              match f(a) case State(g) => g(newState))
+  }
+
+  lemma FunEq<X, Y>(f: X -> Y, g: X -> Y)
+    requires forall x :: f(x) == g(x) 
+    ensures f == g 
+  { assume false; }
+
+  lemma LeftIdentity<A,B>(x : A, f : A -> M<B>)
+    ensures Bind(Return(x), f) == f(x) // return x >>= f  ==  f x
```
Comment (seanmcl) [inline Test/lambdas/StateMonad.dfy]: 1 space around == in comment

File: Test/lambdas/StateMonad.dfy [hunk 11]
```diff
@@ -0,0 +1,231 @@
...
+          }
+          State(s => h(s));
+          == { FunEq(s => h(s), h); }
+          State(h);
+          ==
+          m;
+        }
+    }
+
+  lemma Associativity<A,B,C>(m : M<A>, f:A -> M<B>, g: B -> M<C>)
```
Comment (seanmcl) [inline Test/lambdas/StateMonad.dfy]: Not a criticism, but curious: is there a path to making this kind of proof less verbose?  I'm not used to seeing so many manual expansions in calc sequences.  Do you think this is a fundamental limitation, or do we just need more axioms or triggers or something in the way Dafny automates other features.

File: Source/Dafny/Translator.cs (hunk 2 above)
Comment (amaurremi) [reply Source/Dafny/Translator.cs]: Yes, you are right, that's a good point. I added a test case to illustrate the difference in expressivity.
The reason that Rustan pointed out to me why we still want to not have `Lit`s around `const`s (and not, for example, check whether the right-hand side of a `const` assignment has a `Lit`) is that suppose we have
```ml
module Const {
  export provides N
  const N := 3;
}

module Test {
import C = Const

  lemma test() {
    assert C.N == 3; // will fail
  }
}
```
The assertion will fail because the definition of `N` is hidden inside the `Const` module. If `N` were wrapped inside a `Lit` then in the outside module we might try to evaluate expressions that use `N` which we want to prevent. Therefore, we don't want `const`s to be `Lit`-wrapped at all.

File: Test/lambdas/LitInt.dfy (hunk 4 above)
Comment (amaurremi) [reply Test/lambdas/LitInt.dfy]: Thanks!

File: Test/lambdas/StateMonad.dfy (hunk 10 above)
Comment (amaurremi) [reply Test/lambdas/StateMonad.dfy]: I removed that comment now since it's repeating another comment from above.

File: Test/lambdas/MatrixAssoc.dfy (hunk 8 above)
Comment (amaurremi) [reply Test/lambdas/MatrixAssoc.dfy]: Those two test files had pretty careless formatting, I tried to reformat it into something clearer and more consistent now.

File: Test/lambdas/StateMonad.dfy (hunk 11 above)
Comment (amaurremi) [reply Test/lambdas/StateMonad.dfy]: I think that part of what makes the proof so verbose is that we are reasoning about nested lambdas each of which we have to write out in full because the verifier doesn't reduce anything inside of lambda bodies on its own. So not only do we have to keep writing everything fully, but we have to also copy-paste the lambdas into the functional-extensionality-axiom application `FunEq`.
According to @RustanLeino even when I add `FunEq` to Dafny by default (so that we can write `f == g` rather than `FunEq(f, g)`) we will still have to explicitly give hints to the verifier that it should invoke functional extensionality, which will not make the proofs much less verbose. Although I do hope that it'll be able to apply the axiom on its own, at least sometimes, but I am still in the process of adding extensionality by default so I don't know yet.

**Comment by amaurremi** [comment]
@RustanLeino @samuelgruetter @seanmcl Thanks a lot for all your comments, I passed through them in two [additional](https://github.com/dafny-lang/dafny/pull/344/commits/a9485a3268cc33f9497faf92a7075b5503a1833d) [commits](https://github.com/dafny-lang/dafny/pull/344/commits/a0bdda356a511aaca76a538a01aff30be8b26ec5).

File: Test/lambdas/LitInt.dfy [hunk 12]
```diff
@@ -0,0 +1,36 @@
...
+
+  // Should pass
+  assert Fibonacci(M) == 144;
+
+  // Should fail: constants are not Lit-wrapped
+  // and therefore the sum "M + 3" is not a Lit,
+  // so Fibonacci(M+5) cannot be evaluated without a fuel
+  // (but as shown belowi in `CheckFib` the verifier knows that
+  // Fibonacci(15) == 610)
+  assert Fibonacci(M + 5) == 610;
```
Comment (samuelgruetter) [inline Test/lambdas/LitInt.dfy]: `M + 5` equals 17, so this assertion does not hold according to math, so you're not testing what you claim to test? Also, typo in "belowi"

Comment (amaurremi) [reply Test/lambdas/LitInt.dfy]: Thanks for noticing!

**Comment by amaurremi** [comment]
Fixed the arithmetic problem that Sam pointed out, reverted DafnyRuntime.cs, and hopefully got the documentation/spacing to an acceptable state, but I'm happy to get more suggestions.
